US07384952B2
To a suspension of 1-amino-2-methyl-2-propanethiol hydrochloride (75 mg) in N,N-dimethylformamide (2 mL) is added sodium hydride (60% dispersion in mineral oil, 50 mg) and the mixture is stirred at room temperature for 30 minutes. To the mixture is added tert-butyl 4-fluorobenzoate (50 mg) and the mixture is stirred at 70° C. for 4 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The extract is concentrated in vacuo and the resultant product is purified by flash column chromatography on NH-silica gel (solvent; ethyl acetate) to give tert-butyl 4-[(2-amino-1,1-dimethylethyl)thio]benzoate (54 mg, yield; 75%) as a colorless oil. MS (APCI) m/z: 282 [M+H]+

reactant | 1-amino-2-methyl-2-propanethiol hydrochloride | 75 mg | Cl.NCC(C)(S)C
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | tert-butyl 4-fluorobenzoate | 50 mg | FC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13FO2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-[(2-amino-1,1-dimethylethyl)thio]benzoate | 54 mg, yield; 75% | NCC(C)(C)SC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H23NO2S
